US07238808B2
5-[5-(4-Chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 5-(4-chloro-3-methyl-phenyl)-7-difluoromethyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.16) (159 mg, 0.5 mmol) and commercially available 5-bromo-thiophene-2-sulfonamide (121 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (190 mg, 79%). MS (ISN) 477.0 [(M−H)−]; mp 216° C.

reactant | 5-(4-chloro-3-methyl-phenyl)-7-difluoromethyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 159 mg | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)F)N=CC2C#C)C | C16H10ClF2N3
reactant | 5-bromo-thiophene-2-sulfonamide | 0.5 mmol, 121 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[5-(4-Chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)F)N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)C | C20H13ClF2N4O2S2
